US09085555B2
Indolizine-1,3-dicarboxylic acid 3-allyl ester 1-benzyl ester
The title compound was prepared using the protocol described in steps A and B for the preparation of 1-isocyanato-indolizine-3-carboxylic acid benzyl ester scheme A6 using bromo-acetic acid allyl ester in step A and propionic acid benzyl ester in step B. TLC, Rf (c-hexane/EtOAc 1:1)=0.8; MS (LC/MS): 336.1 [M+H]+, 358.1 [M+Na]+, 693.2 [2M+Na]+; tR (HPLC conditions a): 4.55 min.

reactant | 1-isocyanato-indolizine-3-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1=CC(=C2C=CC=CN12)N=C=O | C17H12N2O3
reactant | bromo-acetic acid allyl ester | C(C=C)OC(CBr)=O | C5H7BrO2
reactant | propionic acid benzyl ester | C(C1=CC=CC=C1)OC(CC)=O | C10H12O2
product | Indolizine-1,3-dicarboxylic acid 3-allyl ester 1-benzyl ester | C(C1=CC=CC=C1)OC(=O)C=1C=C(N2C=CC=CC12)C(=O)OCC=C | C20H17NO4
